US05674951
PREPARATION OF 3-(2,2,3,3,4,4,4-HEPTAFLUOROBUTOXYMETHYL)-3-METHYLOXETANE
A 50 weight percent dispersion of sodium hydride 6.1 grams (127 mmol) in mineral oil, was washed twice with hexanes and was suspended in 60 milliliters of dimethyl formamide. Then 24.0 grams (120 mmol) of 2,2,3,3,4,4,4-heptafluorobutan-1-ol was added and mixture was stirred for 45 minutes. A solution of 25.0 grams (97.5 mmol) of 3-hydroxymethyl-p-toluenesulfonate in 15 milliliters of dimethyl formamide was added and the mixture was heated at 75°-85° C. for 30 hours when 1HNMR analysis of an aliquot showed that the starting sulfonate had been consumed.

reactant | sodium hydride | 127 mmol, 6.1 grams | [H-].[Na+]
reactant | 2,2,3,3,4,4,4-heptafluorobutan-1-ol | 120 mmol, 24.0 grams | FC(CO)(C(C(F)(F)F)(F)F)F | C4H3F7O
reactant | 3-hydroxymethyl-p-toluenesulfonate | 97.5 mmol, 25.0 grams | OCC=1C=C(C=CC1S(=O)(=O)[O-])C
reactant | dimethyl formamide | 60 milliliters | CN(C=O)C | C3H7NO
reactant | dimethyl formamide | 15 milliliters | CN(C=O)C | C3H7NO
product | 3-(2,2,3,3,4,4,4-HEPTAFLUOROBUTOXYMETHYL)-3-METHYLOXETANE | FC(COCC1(COC1)C)(C(C(F)(F)F)(F)F)F | C9H11F7O2
